US07078428B2
N-Cyclopropylmethylphthalimide is prepared as described in Example 2, starting with 4 g of phthalic anhydride, 2.3 cm3 of cyclopropylmethylamine and a catalytic amount of para-toluenesulfonic acid in 40 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 2 hours and is then cooled to a temperature in the region of 20° C. and stirred for 16 hours. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The organic phase is separated out after settling of the phases, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 4.3 g of N-cyclopropylmethylphthalimide are thus obtained in the form of a cottony white solid (Rf=0.46, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (40/60 by volume)).

reactant | phthalic anhydride | 4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | cyclopropylmethylamine | 2.3 cm3 | C1(CC1)CN | C4H9N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 40 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropylmethylphthalimide | 4.3 g | C1(CC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO2
